US09403808B2
2-[(5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-2-ethyl-butyric acid methyl ester
The title compound was synthesized in analogy to Example 6, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g) and 2-amino-2-ethyl-butanoic acid methyl ester hydrochloride (1:1) (CAN 92398-54-4) as starting materials, and isolated (86 mg, 93%) as yellow oil; LC-MS (UV peak area, ESI) 100%, 362.2071 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | 2-amino-2-ethyl-butanoic acid methyl ester hydrochloride | Cl.COC(C(CC)(CC)N)=O
product | 2-[(5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carbonyl)-amino]-2-ethyl-butyric acid methyl ester | COC(C(CC)(CC)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1)=O | C19H27N3O4
